US06350771B1
To a stirred solution of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-formyl-4-trifluoromethylthio-1H-pyrazole-3-carbonitrile (3.0 g) in ethanol was added a solution of hydroxylamine hydrochloride (0.46 g) and sodium carbonate (0.9 g) in water. After 1 hour the mixture was poured into water, extracted (ethyl ether), dried (sodium sulfate) and evaporated. Purification by column chromatography on silica gel gave 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-formyl-N-hydroxy-4-trifluoromethylthio-1H-pyrazole-3-carboximidamide (0.255 g), m.p. 72-75° C. Compound 22.

reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-formyl-4-trifluoromethylthio-1H-pyrazole-3-carbonitrile | 3.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C=O)SC(F)(F)F)C#N | C13H3Cl2F6N3OS
reactant | hydroxylamine hydrochloride | 0.46 g | Cl.NO
reactant | sodium carbonate | 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-formyl-N-hydroxy-4-trifluoromethylthio-1H-pyrazole-3-carboximidamide | 0.255 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C=O)SC(F)(F)F)C(NO)=N | C13H6Cl2F6N4O2S
